US07291635B2
To a cold (ice-water) solution of the title A compound, 3-benzyloxy-4-nitro-benzaldehyde (6.13 g, 23.8 mmol) in methanol (60 mL) is added in portions with stirring sodium borohydride (906 mg, 24 mmol) and the mixture is allowed to warm up to RT overnight. The mixture is evaporated to dryness at aspirator pressure and the residue is triturated with 2N aqueous HCl and extracted 3 times with EtOAc. The organic extracts are washed with brine, dried over anhydrous MgSO4, filtered and evaporated to give 3-benzyloxy-4-nitro-benzyl alcohol which solidifies on standing at RT under vacuum.

reactant | 3-benzyloxy-4-nitro-benzaldehyde | 23.8 mmol, 6.13 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1[N+](=O)[O-] | C14H11NO4
reactant | sodium borohydride | 24 mmol, 906 mg | [BH4-].[Na+]
solvent | methanol | 60 mL | CO | CH4O
product | 3-benzyloxy-4-nitro-benzyl alcohol | C(C1=CC=CC=C1)OC=1C=C(CO)C=CC1[N+](=O)[O-] | C14H13NO4
